US08623889B2
To a solution of tert-butyl 3-(4-(3-(3-(cyclopropanecarboxamido)isoquinolin-7-yl)-4-methylphenylcarbamoyl)phenyl)pyrrolidine-1-carboxylate (prepared following the procedures described for Example 15) (0.135 mmol) in methylene chloride (3.0 mL, 47 mmol) was added 4.0 M of hydrogen chloride in 1,4-dioxane (0.50 mL). The reaction mixture was stirred at room temperature for three hours, and then evaporated in vacuo. To this crude product was added potassium carbonate (53.6 mg, 0.388 mmol), N,N-dimethylformamide (3.0 mL, 39 mmol), and methyl iodide (9.0 uL, 0.14 mmol). The reaction mixture was stirred at room temperature for 18 hours, and then potassium carbonate (33.1 mg, 0.239 mmol) and methyl iodide (7.0 uL, 0.11 mmol) were added. The reaction mixture was stirred at room temperature for 24 hours, and then poured into ethyl acetate, washed with 2M aqueous Na2CO3, dried over MgSO4, filtered, and evaporated in vacuo. The crude product was purified via flash chromatography on silica gel (12 g silica, solvent gradient: 5-20% 1M NH3/MeOH in dichloromethane) to yield 6.0 mg (9%) of N-(3-(3-(cyclopropanecarboxamido)isoquinolin-7-yl)-4-methylphenyl)-4-(1-methylpyrrolidin-3-yl)benzamide. LCMS (ESI): RT (min)=4.104, M+H=505.2, method=E; 1H NMR (400 MHz, DMSO) δ 10.90 (s, 1H), 10.18 (s, 1H), 9.19 (s, 1H), 8.50 (s, 1H), 8.02 (s, 1H), 7.92 (t, J=9.3 Hz, 3H), 7.81-7.67 (m, 3H), 7.44 (d, J=8.1 Hz, 2H), 7.32 (d, J=8.4 Hz, 1H), 3.52-3.40 (m, 2H), 3.01 (unresolved, 1H), 2.82 (unresolved, 2H), 2.44 (s, 3H), 2.26 (s, 3H), 2.08 (m, 1H), 1.84 (m, 2H), 0.85 (m, 4H).

reactant | tert-butyl 3-(4-(3-(3-(cyclopropanecarboxamido)isoquinolin-7-yl)-4-methylphenylcarbamoyl)phenyl)pyrrolidine-1-carboxylate | C1(CC1)C(=O)NC=1N=CC2=CC(=CC=C2C1)C=1C=C(C=CC1C)NC(=O)C1=CC=C(C=C1)C1CN(CC1)C(=O)OC(C)(C)C | C36H38N4O4
reactant | methylene chloride | 47 mmol, 3.0 mL | C(Cl)Cl | CH2Cl2
reactant | hydrogen chloride | 4.0 M | Cl | ClH
reactant | potassium carbonate | 0.388 mmol, 53.6 mg | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 39 mmol, 3.0 mL | CN(C=O)C | C3H7NO
reactant | methyl iodide | 0.14 mmol, 9.0 uL | CI | CH3I
reactant | potassium carbonate | 0.239 mmol, 33.1 mg | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 0.11 mmol, 7.0 uL | CI | CH3I
solvent | 1,4-dioxane | 0.50 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(3-(3-(cyclopropanecarboxamido)isoquinolin-7-yl)-4-methylphenyl)-4-(1-methylpyrrolidin-3-yl)benzamide | 6.0 mg, 9% | C1(CC1)C(=O)NC=1N=CC2=CC(=CC=C2C1)C=1C=C(C=CC1C)NC(C1=CC=C(C=C1)C1CN(CC1)C)=O | C32H32N4O2
